US08389743B2
3-(3-Fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid isobutyl-amide
A 2.5 M solution of n-BuLi in hexanes (155 ml, 388 mmol) was added over 30 min to a solution of 1-(4-bromo-2-fluoro-benzyl)-pyrrolidine (100 g, 388 mmol) in THF (600 ml) in a 2 L round bottomed flask under a flow of nitrogen at −78° C. The reaction mixture was stirred at −78° C. for 60 min. Then a −78° C. chilled solution of 3-oxocyclobutanecarboxylic acid (22 g, 194 mmol) in THF (264 ml) was cannulated under nitrogen and at −78° C. The mixture was warmed to RT slowly and left stirring for 18 h. Isobutylamine (38.5 mL 388 mmol) and T3P (148 ml, 233 mmol, 50 wt % solution in EtOAc) were added. The mixture was stirred for 60 min and then quenched with 1N NaOH (800 ml) and diluted with another 800 ml of EtOAc. The layers were separated and the aqueous phase was extracted with EtOAc (2×1 L) to recover crude product. This was purified by flash column chromatography using a 75 L Biotage™ column eluting with 100% EtOAc, followed with 25%, 30%, and 40% MeOH/EtOAc. The fractions containing the product were combined and concentrated under reduced pressure to obtain a semi solid which was triturated in Et2O and filtered to obtain the title compound as a white solid (43 g, 61% yield).

reactant | n-BuLi | [Li]CCCC
reactant | 1-(4-bromo-2-fluoro-benzyl)-pyrrolidine | 388 mmol, 100 g | BrC1=CC(=C(CN2CCCC2)C=C1)F | C11H13BrFN
reactant | 3-oxocyclobutanecarboxylic acid | 194 mmol, 22 g | O=C1CC(C1)C(=O)O | C5H6O3
reactant | Isobutylamine | 388 mmol, 38.5 mL | C(C(C)C)N | C4H11N
reactant | T3P | 233 mmol, 148 ml | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | THF | 264 ml | C1CCOC1 | C4H8O
product | 3-(3-Fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid isobutyl-amide | 43 g, 61% yield | C(C(C)C)NC(=O)C1CC(C1)(O)C1=CC(=C(C=C1)CN1CCCC1)F | C20H29FN2O2
